US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-2,2,2-trifluoroacetamide
To a solution of N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-2,2,2-trifluoroacetamide (4.0 g, 10.57 mmol) in methanol (80 mL) was added 20% palladium hydroxide on carbon (0.8 g) and trifluoroacetic acid (one drop). The mixture was stirred at room temperature under hydrogen overnight and then filtered. The filtrate was concentrated in vacuo to afford the crude product as a white solid.

reactant | N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-2,2,2-trifluoroacetamide | 10.57 mmol, 4.0 g | C(C1=CC=CC=C1)N(C1(COC1)CNC(C(F)(F)F)=O)CC1=CC=CC=C1 | C20H21F3N2O2
solvent | methanol | 80 mL | CO | CH4O
catalyst | trifluoroacetic acid | one drop | FC(C(=O)O)(F)F | C2HF3O2
catalyst | palladium hydroxide on carbon | 0.8 g | [OH-].[OH-].[Pd+2]
product | N-[(3-Aminooxetan-3-yl)methyl]-2,2,2-trifluoroacetamide | NC1(COC1)CNC(C(F)(F)F)=O | C6H9F3N2O2
